spice
* SPICE Netlist for the given circuit

* Voltage Source
VDD VDD 0 DC 1.8

* Resistor
RD VDD Vout 1k

* NMOS Transistor
M1 Vout Vin 0 0 NMOS

* Model Definition
.model NMOS NMOS

.end